US07713996B2
4-{[1-(5-Chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-benzoic acid, MS (ISP): m/e=485.2 (M−H), was prepared in analogy to example 30, steps 1 to 6. Step 5 was performed using 5-chloro-2-methoxy-benzenesulfonyl chloride, yielding 4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-benzoic acid ethyl ester, which was hydrolyzed in step 6.

reactant | 4-{[1-(5-Chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-benzoic acid | ClC=1C=CC(=C(C1)S(=O)(=O)N1CCC2=CC=C(C=C12)C(=O)NC1=CC=C(C(=O)O)C=C1)OC | C23H19ClN2O6S
reactant | 5-chloro-2-methoxy-benzenesulfonyl chloride | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6Cl2O3S
product | 4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(=O)C1=CC=C2CCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC)=O | C25H23ClN2O6S
